US05401756
a) Preparation of 2-amino-5-bromo-N-(3-pyridylmethyl)-benzamide
In 238 ml of dimethylformamide were dissolved 23.8 g of 2-amino-5-bromobenzoic acid, 13.1 g of 3-aminomethylpyridine and 24.5 g of triethylamine, and the solution was chilled with ice. To this solution was dropwise added 33.3 g of diphenylphosphoryl azide in 10 minutes, and the resultant mixture was stirred at room temperature for 18 hours. The reaction mixture was poured onto ice water. The precipitated solid was filtered, washed with water and dried to give 29.4 g of the titled compound.

reactant | 2-amino-5-bromobenzoic acid | 23.8 g | NC1=C(C(=O)O)C=C(C=C1)Br | C7H6BrNO2
reactant | 3-aminomethylpyridine | 13.1 g | NCC=1C=NC=CC1 | C6H8N2
reactant | triethylamine | 24.5 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 33.3 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | dimethylformamide | 238 ml | CN(C=O)C | C3H7NO
product | 2-amino-5-bromo-N-(3-pyridylmethyl)-benzamide | 29.4 g | NC1=C(C(=O)NCC=2C=NC=CC2)C=C(C=C1)Br | C13H12BrN3O
